US06384041B1
To a suspension of 165 mg (6.84 mmol) of sodium hydride in 12 mL of benzene was added 530 mg (5.93 mmol) of methyl glycolate and 1.24 g (4.56 mmol) of 4-chloro-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidine. The mixture was heated at 60° C. and monitored by TLC (silica, 7:3 heptane-ethyl acetate) for conversion to product. After 5 days the reaction was cooled to ambient temperature and partitioned by the addition of 10 mL of 2 M sodium hydrogen sulfate and 30 mL of ethyl acetate. The aqueous phase was extracted with 10 mL of ethyl acetate. The combined organic phases were dried with sodium sulfate and concentrated to 1.5 g of white solid. The solid was purified by flash chromatography (75 g silica, 3:2 heptane-ethyl acetate) to provide 1.04 g (70%) of [[6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester as a white solid. nmr (500 MHz, CDCl3) δ1.28 (t, J=7.4 Hz, 3H), 2.63 (q, J=7.4 Hz, 2H), 3.81 (s, 3H), 5.10 (s, 2H), 5.47 (s, 2H), 6.41 (s, 1H), 7.03 (d, J=7.0 Hz, 2H), 7.27 (m, 3H), 8.39 (s, 1H)

reactant | sodium hydride | 6.84 mmol, 165 mg | [H-].[Na+]
reactant | methyl glycolate | 5.93 mmol, 530 mg | C(CO)(=O)OC | C3H6O3
reactant | 4-chloro-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidine | 4.56 mmol, 1.24 g | ClC=1C2=C(N=CN1)N(C(=C2)CC)CC2=CC=CC=C2 | C15H14ClN3
reactant | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | benzene | 12 mL | C1=CC=CC=C1 | C6H6
product | [[6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 1.04 g, 70% | COC(COC=1C2=C(N=CN1)N(C(=C2)CC)CC2=CC=CC=C2)=O | C18H19N3O3
